2160-10-04 06:54:00 Physician Resident Progress Note
Chief Complaint: dyspnea
   24 Hour Events:
   s/p pericardiocentesis of bloody fluid, 500 cc, sent for cytology
   RA pressure immediately decreased
   pig-tail cath drain left in place, about 150 cc bloody fluid this
   morning
   pulses checked on arrival to floor = 8 mmHg, unchanged this morning
   placed on shovel mask for mild desat to 80s, responded well
   History obtained from Patient
   Allergies:
   History obtained from PatientSulfonamides
   Unknown; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   chronic low back pain overnight responded to home meds
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea, sore near drain site
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Musculoskeletal: No(t) Joint pain
   Neurologic: No(t) Numbness / tingling
   Psychiatric / Sleep: No(t) Agitated
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2160-10-4**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.1
C (98.7
   HR: 79 (72 - 98) bpm
   BP: 117/90(95) {117/61(82) - 179/96(114)} mmHg
   RR: 23 (19 - 44) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    540 mL
                  PO:
                                                                    150 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,040 mL
                                                                    520 mL
   Urine:
                                                                    590 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   50 mL
   Balance:
                                                                   -500 mL
                                                                   -520 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, no rubs or murmurs noted
   pulsus paradoxus of 8 mmHg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, scd's in place
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   309 K/uL
   9.8 g/dL
   32.0 %
   9.2 K/uL
        [image002.jpg]
                             [**2160-10-4**]  05:22 AM
   WBC
   9.2
   Hct
   32.0
   Plt
   309
   ASSESSMENT AND PLAN: 57yo F with h/o obesity and squamous metaplasia of
   bladder neck in [**2154**] admitted with pleural and pericardial effusions
   now s/p pericardiocentesis transferred to CCU for further monitoring.
   .
   # Pericardial Effusion: Differential of etiology of effusions broad but
   most likely infectious vs malignancy vs rheumatologic. Given up to date
   cancer screenings, preceding viral syndrome and low grade fevers favor
   infectious etiology. Also rheumatologic is on the differential given
   her myalgias and fevers. Now s/p pericardiocentesis with pigtail
   catheter in place. Currently no evidence of tamponade clinically.
   - Monitor tube drainage and pulsus overnight -> unchanged at 8 mmHg
   - Post cath check at 10pm -> wnl
   - Follow up cytologies, gram stain, cultures of fluid
   - Follow up studies ordered by cardiology team including TSH, [**Doctor First Name **]
   - will continue on ibuprofen PRN to treat pericarditis symptoms she was
   complaining of previously as will decrease the inflammatory response
   and may help keep pericardial effusion from recurring.
   - will f/u repeat tte and pull drain this afternoon if no
   reaccumulation of fluid
   .
   # Pleural Effusions: Likely same etiology as the pericardial effusion.
   Currently clinically stable satting well on N/C with shovel mask with
   no need for emergent thoracentesis.
   - cont to monitor
   - Wean O2 as able
   - Follow up studies of pericardial effusion as above
   - CXR to evaluate size of effusions
   .
   #. Transaminitis: Likely [**3-3**] same syndrome that has resulted in the
   effusions. [**Month (only) 11**] be secondary to a viral gastroenteritis, however, may
   also have been the cause initially of her vomiting/nausea.
   - Will check hepatitis serologies and follow LFTs -> trending down
   - Consider RUQ ultrasound if the transaminitis persists, or if patient
   worsens clinically
   .
   # PUMP:  Per recent TTE patient has normal systolic and diastolic
   function.
   - Will repeat TTE post-procedure to ensure no recurrence of pericardial
   effusion -> done, wnl
   - Monitor on telemetry, no events
   - will repeat TTE this morning to reassess pericardium
   .
   # RHYTHM:  Currently sinus.
   - Monitor on telemetry
   .
   # CORONARIES:  No known coronary disease although likely at risk given
   habitus and family history of early MI.
   - Will monitor on telemetry
   .
   #  Pre-diabetes: Patient with no diagnosis of diabetes but does have
   h/o slightly elevated HgBA1c.
   - Will check FSBS while in hospital and cover with ISS as needed
   .
   #  Fybromyalgia: will continue home pain regimen and
   anti-inflammatories as above.
   .
   FEN:  no IVF currently, e- replete PRN, N- kosher heart healthy diet
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with SC hep
   -Bowel regimen with  colace/senna
   .
   CODE: full
   .
   COMM: With patient
   .
   DISPO: CCU for now, possible [**Hospital1 **] call-out after drain is d/c
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2160-10-3**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2160-10-05 08:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Pericardial effusion
   24 Hour Events:
   Pericardial drain put out total of 50 mL in last 16 hrs,
   serosanguinous. Pericardial fluid sent for cx gm stain, cx grew Gram
   positive cocci in clusters. Pulsus monitored overnight, 4-6 mmHg.
   Patient still hypoxic, requiring 5L O2 NC. TTE [**2160-10-4**] showed unchanged,
   small pericardial effusion. Pericardial drain adjusted due to clogging.
   CXR [**2160-10-4**] showed small b/l pleural effusions, infiltrate in LLL cannot
   be excluded.
   Patient denies pain at drain site. Less pleuritic chest pain and
   increased cough, c/w resolution of pericardial effusion. Tolerating PO
   intake, Foley catheter in place.
   Allergies:
   Sulfonamides
   Unknown; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-10-5**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.4
   HR: 88 (78 - 94) bpm
   BP: 141/74(88) {134/64(41) - 176/92(113)} mmHg
   RR: 22 (19 - 35) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 112.5 kg
                  Total In:
                                                                  1,225 mL
                  PO:
                                                                  1,000 mL
                  TF:
   IVF:
                                                                    225 mL
   Blood products:
   Total out:
                                                                  3,400 mL
                                                                    790 mL
   Urine:
                                                                  3,350 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
                                                                     50 mL
   Balance:
                                                                 -2,175 mL
                                                                   -790 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///35/
   Physical Examination
   General: AAO, obese, mild respiratory distress
   HEENT: NCAT, sclera anicteric, unable to assess for JVD [**3-3**] obesity
   CVS: RRR, normal S1 and S2. No m/r/g
   Pulm: CTA-B
   Abdomen: obese, soft, NT, ND, b.s. present
   Extremities: no c/c/e
   Peripheral Vascular: DP 2+ b/l, PT 2+ b/l
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   343 K/uL
   10.5 g/dL
   132 mg/dL
   0.6 mg/dL
   35 mEq/L
   3.9 mEq/L
   9 mg/dL
   101 mEq/L
   142 mEq/L
   34.3 %
   8.5 K/uL
        [image002.jpg]
                             [**2160-10-4**]  05:22 AM
                             [**2160-10-5**]  04:48 AM
   WBC
   9.2
   8.5
   Hct
   32.0
   34.3
   Plt
   309
   343
   Cr
   0.7
   0.6
   Glucose
   126
   132
   Other labs: ALT / AST:86/38, Alk Phos / T Bili:174/0.7, Ca++:8.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   57yo F with h/o obesity and squamous metaplasia of bladder neck in [**2154**]
   admitted with pleural and pericardial effusions now s/p
   pericardiocentesis transferred to CCU for further monitoring.
   .
   # Pericardial Effusion: Differential of etiology of effusions broad but
   most likely infectious vs malignancy vs rheumatologic. Given up to date
   cancer screenings, preceding viral syndrome and low grade fevers favor
   infectious etiology. Also rheumatologic is on the differential given
   her myalgias and fevers, however, unlikely given negative [**Doctor First Name **] and
   normal TSH. Now s/p pericardiocentesis with pigtail catheter in place.
   Currently no evidence of tamponade clinically.
   - Continue to monitor tube drainage, 50 mL since 4pm [**2160-10-4**].
   - Repeat TTE this morning to evaluate remaining pericardial effusate
   volume. If not greater than TTE yesterday, consider to d/c pericardial
   drain.
   - Continue to monitor pulsus. Overnight was 4-6 mmHg.
   - Follow up cytologies, gram stain, cultures of fluid. Pericardial
   fluid was positive for gram + cocci in clusters, likely contaminant.
   Patient is not clinically septic, no antibiotic therapy warranted at
   this time.
   - will continue on ibuprofen PRN to treat pericarditis symptoms she was
   complaining of previously as will decrease the inflammatory response
   and may help keep pericardial effusion from recurring.
   .
   # Pleural Effusions: Likely same etiology as the pericardial effusion.
   CXR on [**2160-10-4**] showed small b/l pleural effusions. Currently clinically
   stable satting well on N/C with shovel mask with no need for emergent
   thoracentesis. Patient diuresing well on own.
   - cont to monitor
   - Wean O2 as able, currently requiring 5L by NC or shovel mask.
   - Nasal saline spray for irritation from nasal cannula
   - Encourage incentive spirometry to prevent atelectasis
   - Follow up studies of pericardial effusion as above
   .
   #. Transaminitis: Likely [**3-3**] same syndrome that has resulted in the
   effusions. [**Month (only) 11**] be secondary to a viral gastroenteritis, however, may
   also have been the cause initially of her vomiting/nausea.
   - Will check hepatitis serologies and follow LFTs -> trending down
   - Consider RUQ ultrasound if the transaminitis persists, or if patient
   worsens clinically
   .
   # PUMP:  Per recent TTE patient has normal systolic and diastolic
   function. Had short duration of a-fib overnight.
   - Monitor on telemetry, continue to monitor for a-fib
   - will repeat TTE this morning to reassess pericardium
   .
   # RHYTHM:  Currently sinus.
   - Monitor on telemetry
   .
   # CORONARIES:  No known coronary disease although likely at risk given
   habitus and family history of early MI.
   - Will monitor on telemetry
   .
   #  Pre-diabetes: Patient with no diagnosis of diabetes but does have
   h/o slightly elevated HgBA1c.
   - Will check FSBS while in hospital and cover with ISS as needed
   .
   #  Fibromyalgia: will continue home pain regimen and
   anti-inflammatories as above.
   .
   FEN:  no IVF currently, e- replete PRN, N- kosher heart healthy diet
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with SC hep
   -Bowel regimen with  colace/senna
   .
   CODE: full
   .
   COMM: With patient
   .
   DISPO: CCU for now, possible [**Hospital1 **] call-out after drain is d/c
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2160-10-3**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2160-10-06 06:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PERICARDIAL DRAIN REMOVED - At [**2160-10-5**] 05:00 PM
   drain removed by cardiology fellow w/o difficulty, pt [**Name (NI) 1216**] throughout;
   total 40 cc straw colored fluid in bag since [**75**] hours ago.
   [**2160-10-5**]: NaCl nasal spray. KCl.
   CXR showed moderate bilateral pleural effusions right greater than
   left with volume loss in both lower lobes with dense retrocardiac
   consolidation. Difficult to assess for interval change given different
   positioning but the lungs appear slightly better aerated on today's
   study.
   Echo PRELIM READ: LVEF>55%. Right ventricular chamber size and free
   wall motion are normal. There is a small pericardial effusion and a fat
   pad anterior to the right ventrical. No right atrial or right
   ventricular diastolic collapse is seen. Compared with the prior study
   (images reviewed) of [**2160-10-4**] the amount of pericardial effusion is the
   same or slightly smaller.
   Pt still w/ increased oxygen requirement, likely call out to floor from
   Allergies:
   Sulfonamides
   Unknown; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pt notes cough,non-productive, when turning, no fevers/chills, denies
   SOB, (-) chest pain/pressure
   Looking forward to leaving ICU
   Flowsheet Data as of  [**2160-10-6**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.2
   HR: 75 (71 - 94) bpm
   BP: 142/73(87) {122/58(69) - 168/79(99)} mmHg
   RR: 25 (19 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.5 kg (admission): 112.5 kg
                  Total In:
                                                                  1,320 mL
                  PO:
                                                                  1,320 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  4,030 mL
                                                                  1,285 mL
   Urine:
                                                                  3,990 mL
                                                                  1,285 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
   Balance:
                                                                 -2,710 mL
                                                                 -1,285 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   343 K/uL
   10.5 g/dL
   132 mg/dL
   0.6 mg/dL
   35 mEq/L
   3.9 mEq/L
   9 mg/dL
   101 mEq/L
   142 mEq/L
   34.3 %
   8.5 K/uL
        [image002.jpg]
                             [**2160-10-4**]  05:22 AM
                             [**2160-10-5**]  04:48 AM
   WBC
   9.2
   8.5
   Hct
   32.0
   34.3
   Plt
   309
   343
   Cr
   0.7
   0.6
   Glucose
   126
   132
   Other labs: ALT / AST:86/38, Alk Phos / T Bili:174/0.7, Ca++:8.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 57yo F with h/o obesity and squamous metaplasia of
   bladder neck in [**2154**] admitted with pleural and pericardial effusions
   now s/o pericardiocentesis transferred to CCU for further monitoring.
   .
   # Pericardial Effusion: Differential of etiology of effusions broad but
   most likely infectious vs malignancy vs rheumatologic. Given upto date
   cancer screenings, preceding viral syndrome and low grade fevers favor
   infectious etiology. Also rheumatologic is on the differential given
   her myalgias and fevers. Now s/p pericardiocentesis with pigtail
   catheter in place. Currently no evidence of tamponade clinically.
   - Monitor pulsus
   - Post cath check at 10pm
   - Follow up cytologies, gram stain, cultures of fluid -> S. aureus coag
   (-) in aerobic bottle, rest of cultures (-), AFB pending
   - Follow up studies ordered by cardiology team including TSH, [**Doctor First Name **]
   - will continue on ibuprofen to treat pericarditis symptoms she was
   complaining of previously as will decrease the inflammatory response
   and may help keep pericardial effusion from recurring.
   .
   # Pleural Effusions: Likely same etiology as the pericardial effusion.
   Currently clinically stable satting well on NRB with no need for
   emergent thoracentesis.
   - Monitor overnight
   - Wean O2 as able
   - Will benefit from sitting up once cath site stable enought to allow
   her to sit up.
   - Follow up studies of pericardial effusion as above
   .
   #. Transaminitis: Likely [**3-3**] same syndrome that has resulted in the
   effusions. [**Month (only) 11**] be secondary to a viral gastroenteritis, however, may
   also have been the cause initially of her vomiting/nausea.
   - Will check hepatitis serologies and follow LFTs -> resolved
   - Consider RUQ ultrasound if the transaminitis persists.
   .
   # PUMP:  Per recent TTE patient has normal systolic and diastolic
   function.
   - Will repeat TTE post-procedure to ensure no recurrence of pericardial
   effusion -> done, no reaccumulation of fluid
   - Monitor on telemetry.
   .
   # RHYTHM:  Currently sinus.  Evidence of a.fib vs. a. flutter overnight
   and two nights ago, CHADS 2 score of 0 (pt has been mildly hypertensive
   at times, so possible score of 1).  No inidication to start
   anti-coagulation.  Episodic desaturation likely etiology.
   - cont to Monitor on telemetry
   .
   # CORONARIES:  No known coronary disease although likely at risk given
   habitus and family history of early MI.
   - Will monitor on telemetry.
   .
   #  Pre-diabetes: Patient with no diagnosis of diabetes but does have
   h/o slightly elevated HgBA1c.
   - Will check FSBS while in hospital and cover with ISS as needed
   .
   #  Fybromyalgia: will continue home pain regimen and
   anti-inflammatories as above.
   .
   FEN:  no IVF currently, e- replete PRN, N- kosher heart healthy diet
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with SC hep
   -Bowel regimen with  colace/senna
   .
   CODE: full
   .
   COMM: With patient
   .
   DISPO: called out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2160-10-3**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: